US04612321
In 40 ml of acetonitrile was dissolved 493 mg of thiopropionic acid amide. In the solution was suspended 2.15 g of 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone. To the suspension was added dropwise slowly 0.78 ml of triethylamine while stirring. The mixture was stirred for 3 hours at a refluxing temperature, then the solvent was evaporated off. To the residue was added a saturated aqueous solution of sodium hydrogen carbonate. The mixture was subjected to extraction with ethyl acetate. The extract was dried, then the solvent was evaporated off. The residue was recrystallised from ethyl acetate-isopropyl ether to yield 1.38 g (91%) of 2-ethyl-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole, m.p. 59°-60° C.

reactant | thiopropionic acid amide | 493 mg | C(CC)(=S)N | C3H7NS
reactant | 2-bromo-1-(4-methoxyphenyl)-2-(3-pyridyl)ethanone | 2.15 g | BrC(C(=O)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | C14H12BrNO2
reactant | triethylamine | 0.78 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-ethyl-4-(4-methoxyphenyl)-5-(3-pyridyl)-1,3-thiazole | 1.38 g, 91% | C(C)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C=1C=NC=CC1 | C17H16N2OS
